US08912186B2
By a procedure similar to that of 1.4, starting from commercial 4-fluoro-1,2-phenylenediamine and 3-(4-chlorophenyl)glutaric anhydride, 3-(4-chlorophenyl)-4-(5-fluoro-2-benzimidazolyl)butanoic acid•HCl was obtained as colourless solid.

reactant | 4-fluoro-1,2-phenylenediamine | FC1=CC(=C(C=C1)N)N | C6H7FN2
reactant | 3-(4-chlorophenyl)glutaric anhydride | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
product | 3-(4-chlorophenyl)-4-(5-fluoro-2-benzimidazolyl)butanoic acid•HCl | ClC1=CC=C(C=C1)C(CC(=O)O)CC=1NC2=C(N1)C=CC(=C2)F.Cl | InChI=1S/C17H14ClFN2O2.ClH/c18-12-3-1-10(2-4-12)11(8-17(22)23)7-16-20-14-6-5-13(19)9-15(14)21-16;/h1-6,9,11H,7-8H2,(H,20,21)(H,22,23);1H
